US07109165B2
N-(N-Fmoc-6-aminocaproyl)-D-threoninol (13).
N-Fmoc-6-aminocaproic acid (10 g, 28.30 mmol) was dissolved in DMF (50 ml) and N-hydroxysuccinimide (3.26 g, 28.30 mmol) and 1,3-dicyclohexylcarbodiimide (5.84 g, 28.3 mmol) were added to the solution. The reaction mixture was stirred at RT (about 23° C.) overnight and the precipitated 1,3-dicyclohexylurea filtered off. To the filtrate D-threoninol (2.98 g, 28.30 mmol) was added and the reaction mixture stirred at RT overnight. The solution was reduced to ca half the volume in vacuo, the residue diluted with about m ml of ethyl acetate and extracted with about x ml of 5% NaHCO3, followed by washing with brine. The organic layer was dried (Na2SO4), evaporated to a syrup and chromatographed by silica gel column chromatography using 1–10% gradient of methanol in ethyl acetate. Fractions containing the product were pooled and evaporated to a white solid (9.94 g, 80%). 1H-NMR (DMSO-d6-D2O) δ 7.97–7.30 (m, 8H, aromatic), 4.34 (d, J=6.80, 2H, (Fm), 4.26 (t, J=6.80, 1H, Fm), 3.9 (m, 1H, H3 Thr), 3.69 (m, 1H, H2 Thr), 3.49 (dd, J=10.6, J=7.0, 1H, H1 Thr), 3.35 (dd, J=10.6, J=6.2, 1H, H1′ Thr), 3.01 (m, 2H, CH2CO Acp), 1.04 (d, CH2NH Acp), 1.54 (m, 2H, CH2 Acp), 1.45 (m, 2H, CH2 Acp), 1.27 (m, 2H, CH2 Acp), 1.04 (d, J=6.4, 3H, CH3). MS/ESI+ m/z 441.0 (M+H)+.

reactant | N-Fmoc-6-aminocaproic acid | 28.30 mmol, 10 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCCCCC(=O)O | C21H23NO4
reactant | N-hydroxysuccinimide | 28.30 mmol, 3.26 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 28.3 mmol, 5.84 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | D-threoninol | 28.30 mmol, 2.98 g | N[C@H]([C@@H](O)C)CO | C4H11NO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(N-Fmoc-6-aminocaproyl)-D-threoninol | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCCCCC(=O)N[C@H]([C@@H](O)C)CO | C25H32N2O5
